US04639522
Subsequently, 3.13 g of the 1-benzyl-3-methyl-4-piperidone obtained above was dissolved in 6 ml of ether. The solution was added dropwise to a suspension of 0.44 g of lithium aluminum hydride in 25 ml of ether over 5 minutes while maintaining the temperature at 24°-27° C. Then, the mixture was stirred at 25° C. for 10 minutes, and, 5 ml of water was added thereto under ice-cooling. The mixture was extracted with 30 ml of ether four times. The ether layer was washed with water, dried over anhydrous sodium sulfate and concentrated to obtain 3.17 g of an oily matter of 1-benzyl-4-hydroxy-3-methylpiperidine.

reactant | 1-benzyl-3-methyl-4-piperidone | 3.13 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | lithium aluminum hydride | 0.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
solvent | ether | 6 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1-benzyl-4-hydroxy-3-methylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)C | C13H19NO
